US04596823
Benzylisothiocyanate (4.0 g) is slowly added to 1.8 g of anhydrous hydrazine in 50 ml dioxane. The reaction mixture is stirred at room temperature, the dioxane is then removed in vacuo and the residue is recrystallised from ethanol to give 4-benzylthiosemicarbazide as a crystalline solid (2.5 g), m.p. 127.6° C.

reactant | Benzylisothiocyanate | 4.0 g | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | hydrazine | 1.8 g | NN | H4N2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-benzylthiosemicarbazide | 2.5 g | C(C1=CC=CC=C1)NC(NN)=S | C8H11N3S
